US08461179B1
A solution of 1-(5-(7-amino-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea (150 mg, 0.344 mmol) and TEA (174.2 mg, 1.72 mmol) in THF (3 mL) was treated drop-wise with acetyl chloride (81 mg, 1.03 mmol) at RT. The resulting mixture was stirred for 2 h and the solvent was removed to give the crude product. It was diluted, washed with brine, dried over Na2SO4, concentrated under reduced pressure and purified by silica gel chromatography to give N-acetyl-N-{3-[2,4-difluoro-5-(3-phenyl-ureido)-phenyl]-1-ethyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-7-yl}-acetamide (150 mg, 84% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.86 (s, 1H), 9.41 (s, 1H), 8.79 (s, 1H), 8.74 (s, 1H), 8.27 (s, 1H), 8.20-8.16 (m, 1H), 8.08 (s, 1H), 8.00 (s, 1H), 7.46-7.39 (m, 3H), 7.29-7.25 (m, 2H), 6.98-6.95 (m, 1H), 4.25-4.22 (t, J=7.2 Hz, 3H), 2.16 (s, 3H), 1.27 (s, 3H).

reactant | 1-(5-(7-amino-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea | 0.344 mmol, 150 mg | NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)F | C23H19F2N5O2
reactant | acetyl chloride | 1.03 mmol, 81 mg | C(C)(=O)Cl | C2H3ClO
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | N-acetyl-N-{3-[2,4-difluoro-5-(3-phenyl-ureido)-phenyl]-1-ethyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-7-yl}-acetamide | 150 mg, 84% yield | C(C)(=O)N(C(C)=O)C1=NC=C2C=C(C(N(C2=C1)CC)=O)C1=C(C=C(C(=C1)NC(=O)NC1=CC=CC=C1)F)F | C27H23F2N5O4
